US04131611
To a slurry of 7.2 g (0.15 mol) of sodium hydride (50% oil dispersion) in 170 ml of N,N-dimethylformamide at 0°-5° is added a solution of 10.1 ml of ethanethiol in 85 ml of N,N-dimethylformamide over a 15 minute period. An additional 3.16 g portion of sodium hydride is added followed by 14.4 g of 1-(p-methoxyphenyl)-3-azabicyclo[3.1.0]hexane hydrochloride. After the addition of 40 ml of N,N-dimethylformamide, the mixture is refluxed for 4 hours and the solvent is then removed. The residue is dissolved in 150 ml of water and mineral oil is extracted with ether. The aqueous solution is made acidic with acetic acid and the precipitated crystals are collected by filtration to give 9.8 g of 3-formyl-1-(p-hydroxyphenyl)-3-azabicyclo[3.1.0]hexane as tan crystals, m.p. 166°-167°.

reactant | sodium hydride | 0.15 mol, 7.2 g | [H-].[Na+]
reactant | ethanethiol | 10.1 ml | C(C)S | C2H6S
reactant | 1-(p-methoxyphenyl)-3-azabicyclo[3.1.0]hexane hydrochloride | 14.4 g | Cl.COC1=CC=C(C=C1)C12CNCC2C1
reactant | N,N-dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-formyl-1-(p-hydroxyphenyl)-3-azabicyclo[3.1.0]hexane | 9.8 g | C(=O)N1CC2(CC2C1)C1=CC=C(C=C1)O | C12H13NO2
